US05866579
6-Ethyl-5,6,7,8-tetrahydro-3-nitro-1,6-naphthyridine.
1-Ethyl-4-piperidone (500 mg, 3.93 mmol) was mixed with 1-methyl-3,5-dinitro-2-pyridone (392 mg, 1.97 miol) in 1M methanolic ammonia (40 mL, 40 mmol) and heated at reflux for 3 h. The solvent was evaporated off and the residue was suspended in CHCl3 and flash chromatographed over silica gel (32 g) eluting with EtOAc to afford an orange solid (379 mg, 93% yield).

reactant | 1-Ethyl-4-piperidone | 3.93 mmol, 500 mg | C(C)N1CCC(CC1)=O | C7H13NO
reactant | 1-methyl-3,5-dinitro-2-pyridone | 392 mg | CN1C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])=O | C6H5N3O5
reactant | ammonia | 40 mmol, 1M, 40 mL | N | H3N
product | 6-Ethyl-5,6,7,8-tetrahydro-3-nitro-1,6-naphthyridine | 379 mg, 93% yield | C(C)N1CC=2C=C(C=NC2CC1)[N+](=O)[O-] | C10H13N3O2
